US04918089
To a solution of imidazole (2.72 g; 40 mmol) in dry tetrahydrofuran (60 ml) was added dropwise thionyl chloride (1.20 g; 10 mmol) under ice-cooling while stirring. After the resultant mixture was turned to room temperature, 2,4-dimethyl-5-thiazolecarboxylic acid (1.57 g; 10 mmol) was added thereto at once, and stirring was continued for 30 minutes, whereby 5-imidazolylcarbonyl-2,4-dimethylthiazole was produced. To the mixture was added dropwise a solution of 2-(2-furyl)aminoacetonitrile (1.46 g; 12 mmol) in dry tetrahydrofuran under ice-cooling, and the resultant mixture was stirred at room temperature for 1 hour. After completion of the reaction, tetrahydrofuran was removed under reduced pressure to separate the residue. Water was added to the residue, which was extracted with ethyl acetate. The ethyl acetate layer was washed twice with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give crude crystals. Recrystallization from ethanol gave 2.0 g of 2-(2,4-dimethylthiazole-5-carboxamido)-2-(2-furyl)acetonitrile as colorless crystals. m.p., 108° -109° C. Yield, 74%.

reactant | imidazole | 40 mmol, 2.72 g | N1C=NC=C1 | C3H4N2
reactant | thionyl chloride | 10 mmol, 1.20 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2,4-dimethyl-5-thiazolecarboxylic acid | 10 mmol, 1.57 g | CC=1SC(=C(N1)C)C(=O)O | C6H7NO2S
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 5-imidazolylcarbonyl-2,4-dimethylthiazole | N1C(=NC=C1)C(=O)C1=C(N=C(S1)C)C | C9H9N3OS
